* Z:\mnt\design.r\spice\examples\1952-1.asc
R1 N015 0 40K
R2 N013 0 40K
R3 N010 0 178K
R4 N007 N006 52.3K
R5 N008 0 10m
M§Q1 N003 N005 N008 N008 Si7868DP
C1 N014 N012 .002µ
R6 N012 N011 4.7K
L1 IN N003 100µ
L2 N001 0 100µ
D1 N001 N002 MURS120
D2 0 N002 MURS120
L3 N002 OUT 4µ Rpar=1K
C2 OUT 0 20µ Rser=10m
R7 OUT N014 43.7K
R8 N014 0 4.99K
R9 N004 IN 178K
R10 0 N004 {178K/10}
V1 IN 0 20
C3 N006 0 .005µ
R11 N008 N009 1K
XU1 N011 N014 N010 MP_01 N006 N007 N004 0 N015 N009 N008 N013 0 N005 IN N016 LT1952-1
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 1.2m startup
.lib LT1952-1.sub
.backanno
.end
